US07968720B2
2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-N-methyl-acetamide
HCl (4M in dioxane, 20 mL) was added to a sol. of (2-chloro-5-methylcarbamoylmethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester (2.01 g, 5.97 mmol) in CH2Cl2 (20 mL) at 0° C. The mixture was stirred for 2 h at 0° C., and was carefully neutralized with aq. 1M NaOH. The layers were separated, and the aq. layer was extracted with CH2Cl2. The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude title compound (1.42 g, 99%) that was used further without purification. LC-MS: tR=0.54 min; ES+: 294.33.

reactant | HCl | 4M, 20 mL | Cl | ClH
reactant | (2-chloro-5-methylcarbamoylmethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester | 5.97 mmol, 2.01 g | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CC(NC)=O)Cl)=O | C18H25ClN2O3
reactant | NaOH | 1M | [OH-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-N-methyl-acetamide | 1.42 g, 99% | ClC1=C(C=C(C=C1)CC(=O)NC)CNC1CC1 | C13H17ClN2O
